US08313886B2
Synthesis of 1,1,1-trifluoro-3-methylbutan-2-yl chloroacetate
A flask was charged with 1.1 L of a 1 mol/L tetrahydrofuran solution of isopropylmagnesium chloride, to which 142 g of ethyl trifluoroacetate was added dropwise below 20° C. The solution was stirred for 2 hours at room temperature, after which 282 g of chloroacetic acid chloride was added dropwise below 40° C. The solution was stirred for 2 hours at room temperature, after which 950 g of 10% hydrochloric acid was added to stop the reaction. Ordinary aqueous work-up was followed by distillation under reduced pressure, obtaining 195 g of the end compound (yield 89%).

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | ethyl trifluoroacetate | 142 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | chloroacetic acid chloride | 282 g | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 950 g | Cl | ClH
solvent | tetrahydrofuran | 1 mol/L | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-3-methylbutan-2-yl chloroacetate | 195 g, yield 89% | ClCC(=O)OC(C(F)(F)F)C(C)C | C7H10ClF3O2
